* Z:\mnt\design.r\spice\examples\1530.asc
L1 N008 OUT 5µ
V1 IN 0 8
C1 OUT 0 330µ x7
M§Q1 N008 N009 0 0 IRF7201
C3 N006 0 150p
C4 N005 0 .022µ
R1 N006 N005 10K
XU1 N001 0 N010 N006 N003 N007 N009 N004 LTC1530 Top=10 Bot=1T
R2 IN N003 50K
M§Q2 IN N004 N008 N008 IRF7201
R3 OUT N010 68.5K
R4 N010 0 41K
R5 N008 N007 20
D1 N002 N001 MBR0530L
D2 IN N002 MBR0530L
C5 N002 N008 .22µ
C6 N001 0 .01µ
C7 N001 0 10µ
Rload OUT 0 .2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5.5m startup
.lib LTC1530.sub
.backanno
.end
